US04500545
Preparation of dl-3-Hydroxy-7-amino-5,6,7,8-tetrahydro-2-naphthlenecarboxamide
A portion of the above free base was converted to the hydrochloride salt. Eight and nine tenths grams of this salt were dissolved in methanol containing 1 ml. of water. Two grams of 5% palladium-on-carbon were added and the mixture hydrogenated at 60 psi. The hydrogenation mixture was then filtered and the filtrate evaporated to dryness in vacuo. A white solid shown by TLC to consist of a single spot comprising methyl dl-3-hydroxy-7-amino-5,6,7,8-tetrahydro-2-naphthoate hydrochloride was obtained. This white solid was dissolved in methanol and the methanol solution cooled to about 0° C. The cooled solution was saturated with gaseous ammonia and the resulting mixture allowed to remain at ambient temperature for about 17 days. At this time, TLC indicated the amidation reaction had gone substantially to completion. The reaction mixture was decolorized with carbon and filtered and the filtrate concentrated in vacuo to yield about 3.5 g. of dl-3-hydroxy-7-amino-5,6,7,8-tetrahydro-2-naphthalenecarboxamide hydrochloride melting at about 300° C.

reactant | water | O | H2O
reactant | ammonia | N | H3N
reactant | 3-hydroxy-7-amino-5,6,7,8-tetrahydro-2-naphthalenecarboxamide hydrochloride | Cl.OC=1C(=CC=2CC(CCC2C1)N)C(=O)N
solvent | methanol | 1 ml | CO | CH4O
catalyst | palladium-on-carbon | Two grams | [Pd] | Pd
product | 3-Hydroxy-7-amino-5,6,7,8-tetrahydro-2-naphthlenecarboxamide | OC=1C(=CC=2CC(CCC2C1)N)C(=O)N | C11H14N2O2
